US04780452
7-Anilino-3-(5-deoxy-β-D-ribofuranosyl)-3H-imidazo[4,5-b]pyridine
7-Anilino-3H-imidazo[4,5-b]pyridine (0.8 g, 3.77 mmol) and 5'-deoxyuridine (2 g, 0.87 mmol) were added to a 10 mL solution of 10 mM KxHxPO4, pH 7.4 and 0.04% potassium azide. After mixing, 180 units of uridine phosphorylase and 1800 units of purine nucleoside phosphorylase were added. The reaction was continuously mixed at 35° C. for 6 days. Solids were collected by filtration and recrystallized from boiling ethanol yielding 0.943 g of the 7-anilino-3-(5-deoxy-β-D-ribofuranosyl)-3H-imidazo[4,5-b]pyridine. This corresponded to a yield of 77%; m.p. 219° C.

reactant | 7-Anilino-3H-imidazo[4,5-b]pyridine | 3.77 mmol, 0.8 g | N(C1=CC=CC=C1)C1=C2C(=NC=C1)NC=N2 | C12H10N4
reactant | 5'-deoxyuridine | 0.87 mmol, 2 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](C)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
product | 7-Anilino-3-(5-deoxy-β-D-ribofuranosyl)-3H-imidazo[4,5-b]pyridine | yield of 77% | N(C1=CC=CC=C1)C1=C2C(=NC=C1)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C | C17H18N4O3
